US07223788B2
4-Methyl-3,4,5,6-tetrahydro-2H-[1,3′]bipyridinyl-6′-carboxylic acid
Benzhydryl 5-trifluoromethanesulfonyloxypyridine-2-carboxylate (3.0 g) was heated with 4-methylpiperidine (1.4 g) at 80° C. for one hour. The reaction mixture was immediately purified by preparative HPLC and then hydrogenated in analogy to method. This resulted in the product with the molecular weight of 220.27 (C12H16N2O2); MS (ESI): 221 (M+H+).

reactant | Benzhydryl 5-trifluoromethanesulfonyloxypyridine-2-carboxylate | 3.0 g | FC(S(=O)(=O)OC=1C=CC(=NC1)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)(F)F | C20H14F3NO5S
reactant | 4-methylpiperidine | 1.4 g | CC1CCNCC1 | C6H13N
product | 4-Methyl-3,4,5,6-tetrahydro-2H-[1,3′]bipyridinyl-6′-carboxylic acid | CC1CCN(CC1)C=1C=NC(=CC1)C(=O)O | C12H16N2O2
